US06018054
K.6. (1RS,2RS,6RS)-8-tert-Butoxycarbonyl-2-azidomethyl-8-azabicyclo[4.3.0]non-4-ene
A solution of 33 g (0.08 mol) of (1RS,2RS,6RS)-8-tert-butyloxycarbonyl-2-(4-toluenesulphonyloxymethyl)-8-azabicyclo[4.3.0]non-4-ene (title compound from Example K.5.) and 15.8 g (0.24 mol) of sodium azide in 200 ml of N,N-dimethylformamide is stirred at 70° C. for 40 h. After cooling, the solution is diluted with water (500 ml) and extracted three times with 250 ml of petroleum ether on each occasion. The combined organic phase is washed with 5% strength sodium hydrogen carbonate solution, dried (sodium sulphate) and concentrated.

reactant | (1RS,2RS,6RS)-8-tert-butyloxycarbonyl-2-(4-toluenesulphonyloxymethyl)-8-azabicyclo[4.3.0]non-4-ene | 0.08 mol, 33 g | C(C)(C)(C)OC(=O)N1CC2C=CCC(C2C1)COS(=O)(=O)C1=CC=C(C=C1)C | C21H29NO5S
reactant | sodium azide | 0.24 mol, 15.8 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (1RS,2RS,6RS)-8-tert-Butoxycarbonyl-2-azidomethyl-8-azabicyclo[4.3.0]non-4-ene | C(C)(C)(C)OC(=O)N1CC2C=CCC(C2C1)CN=[N+]=[N-] | C14H22N4O2
